US06730682B2
Ethyl 5-Hydroxy-3-iodo[1,7]naphthyridine-6-carboxylate (P.4)
A mixture of ethyl 2-(((2-ethoxy-2-oxoethyl)((4-methylphenyl)sulfonyl)amino)methyl)-5-iodonicotinate (Preparation 11, 8.20 g) and sodium ethoxide (2.6 g) in anhydrous ethanol (60 mL) is stirred for 5 h. The mixture is then poured into water and neutralized with 3 N aqueous hydrochloric acid. The resulting precipitate is filtered and dried.

reactant | ethyl 2-(((2-ethoxy-2-oxoethyl)((4-methylphenyl)sulfonyl)amino)methyl)-5-iodonicotinate | 8.20 g | C(C)OC(CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1=C(C(=O)OCC)C=C(C=N1)I)=O | C20H23IN2O6S
reactant | sodium ethoxide | 2.6 g | [O-]CC.[Na+]
reactant | water | O | H2O
reactant | hydrochloric acid | 3 N | Cl | ClH
solvent | ethanol | 60 mL | C(C)O | C2H6O
product | Ethyl 5-Hydroxy-3-iodo[1,7]naphthyridine-6-carboxylate | OC1=C2C=C(C=NC2=CN=C1C(=O)OCC)I | C11H9IN2O3
